US05811439
The same procedures used in Example 4 were repeated except for using 703 mg of indole-4-carbaldehyde and 987 mg of α-phenylethyl bromide instead of the 4-picolyl chloride hydrochloride to give 845 mg of 1-(α-methylbenzyl)indole-4-carbaldehyde as an orange-colored oily substance. The yield thereof was found to be 70%.

reactant | indole-4-carbaldehyde | 703 mg | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | α-phenylethyl bromide | 987 mg | C1(=CC=CC=C1)C(C)Br | C8H9Br
product | 1-(α-methylbenzyl)indole-4-carbaldehyde | 845 mg | CC(C1=CC=CC=C1)N1C=CC=2C(=CC=CC12)C=O | C17H15NO
